US07943636B2
Di(tert-butyl)2-ethyl-1-methyl-2H-pyrazolo[3,4-c]quinolin-4-ylimidodicarbonate was reacted with tetrahydro-4H-pyran-4-one according to the method of Example 2 using di(tert-butyl)2-ethyl-1-methyl-2H-pyrazolo[3,4-c]quinolin-4-ylimidodicarbonate in lieu of di(tert-butyl)1-methyl-2-propyl-2H-pyrazolo[3,4-c]quinolin-4-ylimidodicarbonate. The crude product was recrystallized acetonitrile provide 0.349 g 4-[(4-amino-2-ethyl-2H-pyrazolo[3,4-c]quinolin-1-yl)methyl]tetrahydro-2H-pyran-4-ol as off-white crystals, mp 253-255° C.

reactant | Di(tert-butyl)2-ethyl-1-methyl-2H-pyrazolo[3,4-c]quinolin-4-ylimidodicarbonate | C(C)(C)(C)C=1C=CC=2C=3C(C(=NC2C1C(C)(C)C)N(C(=O)[O-])C(=O)[O-])=NN(C3C)CC
reactant | tetrahydro-4H-pyran-4-one | O1CCC(CC1)=O | C5H8O2
reactant | di(tert-butyl)1-methyl-2-propyl-2H-pyrazolo[3,4-c]quinolin-4-ylimidodicarbonate | C(C)(C)(C)C=1C=CC=2C=3C(C(=NC2C1C(C)(C)C)N(C(=O)[O-])C(=O)[O-])=NN(C3C)CCC
product | 4-[(4-amino-2-ethyl-2H-pyrazolo[3,4-c]quinolin-1-yl)methyl]tetrahydro-2H-pyran-4-ol | 0.349 g | NC1=NC=2C=CC=CC2C=2C1=NN(C2CC2(CCOCC2)O)CC | C18H22N4O2
